US07045545B1
3-methyl-4-(5-fluorobenzofur-7-yl)pentan-2-one
A mixture of 1 gm (4.65 mMol) 5-fluoro-7-bromobenzofuran, 0.54 ml (5.23 mMol) 2-methyl-3-hydroxybut-1-ene, 9 mg (0.04 mMol) palladium(II) acetate, 0.021 gm (0.08 mMol) triphenylphosphine, and 0.44 gm (5.23 mMol) sodium bicarbonate in 5 mL hexamethylphosphoramide was heated at 130° C. for 3.5 hours. The reaction mixture was cooled to room temperature and was then diluted with 100 mL diethyl ether. The organic phase was washed sequentially with 2×20 mL water followed by 2×20 mL saturated aqueous sodium chloride. The remaining organics were dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 10:1 hexane:diethyl ether. Fractions containing the desired product were combined and concentrated under reduced pressure to provide the desired product in 81% yield as a colorless oil.

reactant | 5-fluoro-7-bromobenzofuran | 4.65 mMol, 1 gm | FC=1C=C(C2=C(C=CO2)C1)Br | C8H4BrFO
reactant | 2-methyl-3-hydroxybut-1-ene | 5.23 mMol, 0.54 ml | CC(=C)C(C)O | C5H10O
reactant | triphenylphosphine | 0.08 mMol, 0.021 gm | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium bicarbonate | 5.23 mMol, 0.44 gm | C([O-])(O)=O.[Na+]
solvent | hexamethylphosphoramide | 5 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
catalyst | palladium(II) acetate | 0.04 mMol, 9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-methyl-4-(5-fluorobenzofur-7-yl)pentan-2-one | 81% yield | CC(C(C)=O)C(C)C1=CC(=CC=2C=COC21)F | C14H15FO2
